US09126984B2
6-(4-(6-fluoro-1H-indol-3-yl)-1H-pyrazol-1-yl)pyridazin-3-amine
A mixture of N-(2,4-dimethoxybenzyl)-6-(4-(6-fluoro-1H-indol-3-yl)-1H-pyrazol-1-yl)pyridazin-3-amine (80 mg; 0.18 mmol) and anisole (2.0 mL) in TFA (2.0 mL) was stirred at 120° C. for 2 hours in a microwave reactor. The reaction mixture was concentrated, and purified by a silica gel column chromatography (PE/EtOAc=4/1 to 2/1) to afford 30 mg (57%) of the title compound as a yellow solid.

reactant | N-(2,4-dimethoxybenzyl)-6-(4-(6-fluoro-1H-indol-3-yl)-1H-pyrazol-1-yl)pyridazin-3-amine | 0.18 mmol, 80 mg | COC1=C(CNC=2N=NC(=CC2)N2N=CC(=C2)C2=CNC3=CC(=CC=C23)F)C=CC(=C1)OC | C24H21FN6O2
reactant | anisole | 2.0 mL | C1(=CC=CC=C1)OC | C7H8O
solvent | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | 6-(4-(6-fluoro-1H-indol-3-yl)-1H-pyrazol-1-yl)pyridazin-3-amine | 30 mg, 57% | FC1=CC=C2C(=CNC2=C1)C=1C=NN(C1)C1=CC=C(N=N1)N | C15H11FN6
